US05041454
A mixture of 2.21 parts of 1-(2-chloroethyl)-3-ethyl-2-imidazolidinone, 3.13 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 1.58 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred and heated for 48 hours at 70° C. The reaction mixture was evaporated. Water was added and the product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3.08 parts (67.8%) of cis-4-amino-5-chloro-N-[1-[2-(3-ethyl-2-oxo-1-imidazolidinyl)ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 152.8° C. (compound 1).

reactant | 1-(2-chloroethyl)-3-ethyl-2-imidazolidinone | ClCCN1C(N(CC1)CC)=O | C7H13ClN2O
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-N-[1-[2-(3-ethyl-2-oxo-1-imidazolidinyl)ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 67.8% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN2C(N(CC2)CC)=O)OC)C=C1Cl)OC | C21H32ClN5O4
